US06794395B1
(45) 3-(Z)-(1-{4-[N-(2-dimethylaminoethyl)-N-methylsulphonyl-amino]-anilino}-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone
Prepared from 3-(1-methoxy-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone and N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine

reactant | 3-(1-methoxy-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone | COC(C1=CC=CC=C1)=C1C(NC2=CC3=C(C=C12)OCO3)=O | C17H13NO4
reactant | N-(2-dimethylamino-ethyl)-N-methylsulphonyl-p-phenylenediamine | CN(CCN(C1=CC=C(C=C1)N)S(=O)(=O)C)C | C11H19N3O2S
product | 3-(Z)-(1-{4-[N-(2-dimethylaminoethyl)-N-methylsulphonyl-amino]-anilino}-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone | CN(CCN(S(=O)(=O)C)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC4=C(C=C23)OCO4)=O)C=C1)C | C27H28N4O5S
